US09034866B2
9-Bromo-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide (0.15 g) was reacted with dimethyl ethynyl carbinol similar to as described in Procedure E to afford 56.9 mg of 9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide following reverse phase hplc purification. MS (Q1) 329 (M)+. 1H NMR (400 MHz, DMSO) δ 8.57 (d, J=2.1 Hz, 1H), 8.39 (s, 1H), 7.84 (s, 1H), 7.27 (dd, J=8.3, 2.1 Hz, 1H), 7.01 (d, J=8.3 Hz, 1H), 5.40 (s, 1H), 4.34 (t, J=4.9 Hz, 2H), 3.41 (t, J=4.9 Hz, 2H), 1.49 (s, 6H).

reactant | 9-Bromo-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide | 0.15 g | BrC=1C=CC2=C(C1)C=1N=C(SC1CCO2)C(=O)N | C12H9BrN2O2S
reactant | dimethyl ethynyl carbinol | CC(O)(C#C)C | C5H8O
product | 9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide | 56.9 mg | OC(C#CC=1C=CC2=C(C1)C=1N=C(SC1CCO2)C(=O)N)(C)C | C17H16N2O3S
